Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None
attach
 
Pertinent Results:
Admission Labs
#ERROR!
___ 08:40PM BLOOD WBC-12.3* RBC-5.06 Hgb-15.1 Hct-45.4 
MCV-90 MCH-29.8 MCHC-33.3 RDW-14.5 RDWSD-46.8* Plt ___
___ 08:40PM BLOOD Neuts-86.3* Lymphs-6.6* Monos-5.4 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-10.63* AbsLymp-0.82* 
AbsMono-0.67 AbsEos-0.00* AbsBaso-0.03
___ 08:40PM BLOOD Plt ___
___ 07:50AM BLOOD ___ PTT-30.0 ___
___ 08:40PM BLOOD Glucose-143* UreaN-18 Creat-1.3* Na-141 
K-4.3 Cl-95* HCO3-23 AnGap-23*
___ 08:40PM BLOOD CK-MB-2 cTropnT-<0.01 proBNP-850
___ 08:40PM BLOOD Calcium-9.9 Phos-4.8* Mg-2.1
___ 08:49PM BLOOD Lactate-3.9*

Relevant Studies
#ERROR!
___ CXR
IMPRESSION:    
Emphysema with mild bibasilar atelectasis.  No convincing 
evidence for  pneumonia or edema. 

TTE ___
IMPRESSION: Suboptimal image quality. Mild symmetric left 
ventricular hypertrophy with normal cavity size and moderate 
global hypokinesis in a pattern most c/w a non-ischemic 
cardmyopathy. Mild pulmonary artery systolic hypertension. EF 
33%

Discharge Labs
#ERROR!
___ 07:19AM BLOOD WBC-10.3* RBC-4.65 Hgb-14.0 Hct-43.0 
MCV-93 MCH-30.1 MCHC-32.6 RDW-14.3 RDWSD-47.8* Plt ___
___ 07:19AM BLOOD ___ PTT-28.8 ___
___ 07:19AM BLOOD Plt ___
___ 07:19AM BLOOD Glucose-91 UreaN-20 Creat-1.3* Na-144 
K-4.6 Cl-100 HCO3-30 AnGap-14
___ 07:19AM BLOOD Calcium-9.0 Phos-3.9 Mg-2.1
 
Brief Hospital Course:
TRANSITIONAL ISSUES
#ERROR!
[] Amiodarone 200mg BID for one month (started ___, then 
decrease to 200 mg daily.
[] Will need repeat PFTs, LFTs, TSH at 6 months.
[] Decreased simvastatin from 40mg to 20mg due to possible 
interaction with amiodarone.
[] TTE with newly reduced EF from 52% to 33% with global LV 
hypokinesis, c/f possibly tachycardia induced cardiomyopathy. 
Recommend re-echo once rates better controlled; defer further 
work up to outpatient cardiology at the request of patient

ASSESSMENT AND PLAN:
#ERROR!
___ male with a history of interstitial lung disease, 
pulmonary hypertension, HFpEF, and atrial fibrillation (on 
Eliquis), BPH who presented with worsening shortness of breath 
over the last week. He was diuresed with 40mg IV Lasix, and 
symptoms improved significantly. While in the hospital, he was 
also initiated on amiodarone for anti-arrhythmic therapy for his 
Atrial Fibrillation.

ACUTE ISSUES:
#ERROR!
# Dyspnea on exertion
# Acute on Chronic HF with newly reduced EF. 
Mr. ___ presented with dyspnea on exertion, lower extremity 
edema, and mild weight gain, which was consistent with heart 
failure exacerbation. However, BNP not significant elevated and 
weight stable from prior. He was empirically treated with IV 
diuretics (20 mg Lasix x2) in the ED with improvement in his 
DOE. Repeat TTE was performed on the day of discharge which 
showed LVEF 33% from prior 52% in ___ with moderate LV global 
hypokinesis w c/f non-ischemic cardiomyopathy. This was 
attributed to his poorly controlled afib/aflutter w concern for 
tachycardia-induced cardiomyopathy. Given that he was euvolemic, 
with resolution of symptoms, had f/u with cardiology ___, and 
patient strong preference despite counseling of benefit, his 
newly reduced EF was not worked up further while inpatient, 
including other labs, imaging, and w/u for CAD.

# AFib/AFlutter
Patient was evaluated by cardiology and concern was that his 
DOE, possibly new CHF (later confirmed on TTE on the day of 
discharge), and previously uncontrolled HR was due to an 
inadequate rate-control strategy and that rhythm control was 
altogether preferable. As such, he was initiated on Amiodarone 
on ___, with a plan to continue 200mg BID for one month, then 
decrease to 200 mg daily. He also continued his home dose of 
metoprolol and Eliquis. Notably, in the context of his ILD, he 
will need close PFT and CXR monitoring to ensure no progression 
while on amiodarone.

#Interstitial lung disease, on ___ L NC O2 at home
Mr. ___ has a history of ILD, and was recently started on 
long prednisone taper empirically for possible NSIP. His 
prednisone was decreased from 40mg to 20mg two weeks prior to 
admission by his PCP, after discussion with his pulmonology 
team. However, in this context, he did not have 
worsening/progression of his CT findings but in fact altogether 
had some improvement of bibasilar GGOs, suggesting a steroid 
responsive process. He was continued on Prednisone 20mg in the 
hospital, and prophylaxis with atovaquone, pantoprazole 40 mg 
daily. He will f/u pulmonary ___ for continuation of 
prednisone course.

CHRONIC/STABLE ISSUES:
#ERROR!
# PVD
Patient continued his home clopidogrel and pentoxifylline.

# BPH
Patient continued his home Tamsulosin.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 4 PUFF IH Q6H:PRN SOB/wheezing 
2. Apixaban 5 mg PO BID 
3. Clopidogrel 75 mg PO DAILY 
4. Multivitamins 1 TAB PO DAILY 
5. Pantoprazole 40 mg PO Q24H 
6. PredniSONE 20 mg PO DAILY 
7. Senna 8.6 mg PO BID 
8. Simvastatin 40 mg PO QPM 
9. Tamsulosin 0.4 mg PO QHS 
10. Anoro Ellipta (umeclidinium-vilanterol) 62.5-25 
mcg/actuation inhalation DAILY 
11. Magnesium Oxide 400 mg PO DAILY 
12. Metoprolol Succinate XL 100 mg PO DAILY 
13. Pentoxifylline 400 mg PO TID 
14. Furosemide 20 mg PO DAILY 
15. Atovaquone Suspension 1500 mg PO DAILY 

 
Discharge Medications:
1.  Amiodarone 200 mg PO BID 
RX *amiodarone 200 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0 
2.  Simvastatin 20 mg PO QPM 
RX *simvastatin 20 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  Albuterol Inhaler 4 PUFF IH Q6H:PRN SOB/wheezing  
4.  Anoro Ellipta (umeclidinium-vilanterol) 62.5-25 
mcg/actuation inhalation DAILY  
5.  Apixaban 5 mg PO BID  
6.  Atovaquone Suspension 1500 mg PO DAILY  
7.  Clopidogrel 75 mg PO DAILY  
8.  Furosemide 20 mg PO DAILY  
9.  Magnesium Oxide 400 mg PO DAILY  
10.  Metoprolol Succinate XL 100 mg PO DAILY  
11.  Multivitamins 1 TAB PO DAILY  
12.  Pantoprazole 40 mg PO Q24H  
13.  Pentoxifylline 400 mg PO TID  
14.  PredniSONE 20 mg PO DAILY  
15.  Senna 8.6 mg PO BID  
16.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary
#ERROR!
HFpEF
Atrial Fibrillation/Flutter

Secondary
#ERROR!
ILD
PVD
BPH

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
#ERROR!
- You were admitted to the hospital due to worsening shortness 
of breath.  

WHAT HAPPENED IN THE HOSPITAL?  
#ERROR!
- You were given intravenous Lasix to help clear the fluid out 
of your body. Your breathing improved significantly. 
- You were seen by the Cardiology team for your Atrial 
Fibrillation, and Atrial Flutter and you were started on 
amiodarone to control this.

WHAT SHOULD I DO WHEN I GO HOME?  
#ERROR!
- Please continue to take all of your medications as directed.
- Please follow up with all the appointments scheduled with your 
doctor.
- Please weigh yourself daily, and call your doctor if your 
weight increases or decreases more than three pounds in any 
given day.

Thank you for allowing us to be involved in your care, we wish 
you all the best!  
Your ___ Healthcare Team  
 
Followup Instructions:
___